US06414030B1
1-[[5-[2-(5-tert-Butyl-2-methoxybenzamido)ethyl]-2-(2-methoxyethoxy)phenyl]sulfonyl]-3-methylthiourea
The preparation was carried out analogously to Example 1 using 5-[2-(5-tert-butyl-2-methoxybenzamido)ethyl]-2-(2-methoxyethoxy)benzenesulfonamide. Instead of potassium carbonate, sodium hydride was used as base in the reaction with methyl isothiocyanate analogously to Example 5. The product had a melting point of 61° C.

reactant | 5-[2-(5-tert-butyl-2-methoxybenzamido)ethyl]-2-(2-methoxyethoxy)benzenesulfonamide | C(C)(C)(C)C=1C=CC(=C(C(=O)NCCC=2C=CC(=C(C2)S(=O)(=O)N)OCCOC)C1)OC | C23H32N2O6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydride | [H-].[Na+]
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | 1-[[5-[2-(5-tert-Butyl-2-methoxybenzamido)ethyl]-2-(2-methoxyethoxy)phenyl]sulfonyl]-3-methylthiourea | C(C)(C)(C)C=1C=CC(=C(C(=O)NCCC=2C=CC(=C(C2)S(=O)(=O)NC(=S)NC)OCCOC)C1)OC | C25H35N3O6S2
